US07547729B2
2,6-Dimethylthioanisole
This compound was synthesized from 2,6-dimethylthiophenol and methyl iodide according to general method 4 described earlier.

reactant | 2,6-dimethylthiophenol | CC1=C(C(=CC=C1)C)S | C8H10S
reactant | methyl iodide | CI | CH3I
product | 2,6-Dimethylthioanisole | CC1=C(C(=CC=C1)C)SC | C9H12S
